US08012974B2
2-Bromo-7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine (0.346 g, 1.01 mmol), benzhydrylideneamine (0.19 mL, 1.11 mmol), Cs2CO3 (658 mg, 2.02 mmol), Pd(OAc)2 (23 mg, 0.101 mmol) and BINAP (63 mg, 0.101 mmol) were dissolved in THF (10 mL) and heated at 100° C. for 63 hr, cooled to RT, partitioned between EtOAc and brine. The organic layer was dried (MgSO4), filtered, concentrated, and purified by SiO2 chromatography (40 g SiO2, hexanes/EtOAc 0-35% EtOAc) to give 158 mg of benzhydrylidene-[7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine as a yellow liquid (20% yield).

reactant | 2-Bromo-7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 1.01 mmol, 0.346 g | BrC=1N=C2C(=NC1)N(C=C2C)COCC[Si](C)(C)C | C13H20BrN3OSi
reactant | benzhydrylideneamine | 1.11 mmol, 0.19 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | Cs2CO3 | 2.02 mmol, 658 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 0.101 mmol, 63 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.101 mmol, 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | benzhydrylidene-[7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine | 158 mg, 20% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1N=C2C(=NC1)N(C=C2C)COCC[Si](C)(C)C | C26H30N4OSi
